US05703239
N-Cyclopropylcarbonyl-4-(-6-methoxy-indan-1-yl)piperidine
A mixture of 4-(6-methoxy-indan-1-yl)piperidine (0.46 g, 2 mmol), cyclopropane carbonyl chloride (0.21 g, 2 mmol), and excess powdered potassium carbonate in acetonitrile was stirred for 72 h. The solution was filtered and concentrated in vacuo. The residue chromatographed on silica eluting with 2% methanol in methylene chloride to give, on concentration of the appropriate fractions, the product as an oil (0.5 g, 83%), IR (KBr) 2940, 1636, 1490, 1244, 1034 cm-1 ; H NMR (CDCl3, 300 MHz) δ 7.08 (d, 1H, J=7.9 Hz), 6.70-6.67 (m, 2H), 5.27 (m, 2H), 3.77 (s, 3H), 3.10-3.04 (m, 1H), 2.83-2.67 (m, 4H), 2.13-2.03 (m, 1H), 1.92-1.83 (m, 2H), 1.75-1.67 (m, 2H), 1.52-1.48 (m, 1H), 1.37-1.18 (m, 2H), 0.96-0.91 (m,2H). 0.73-0.67 (m, 2H). Anal. Calc'd for C19H25 NO2 ·0.2CH2Cl2 : C, 73.08%; H, 8.03%; N, 4.39%. Found: C, 72.81%; H, 7.94%; N, 4.44%.

reactant | 4-(6-methoxy-indan-1-yl)piperidine | 2 mmol, 0.46 g | COC1=CC=C2CCC(C2=C1)C1CCNCC1 | C15H21NO
reactant | cyclopropane carbonyl chloride | 2 mmol, 0.21 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | KBr | [K+].[Br-]
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Cyclopropylcarbonyl-4-(-6-methoxy-indan-1-yl)piperidine | C1(CC1)C(=O)N1CCC(CC1)C1CCC2=CC=C(C=C12)OC | C19H25NO2
